US07579341B2
(R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-[4-(8-carboxymethyl-8-aza-bicyclo[3.2.1]oct-3-yl)-piperazin-1-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
A solution of 1.92 mg (0.08 mmol) LiOH in 1 mL water was added to 40.0 mg (0.05 mmol) (R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-[4-(8-ethoxycarbonyl-methyl-8-aza-bicyclo[3.2.1]oct-3-yl)-piperazin-1-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate in 1 mL THF and the reaction mixture was shaken overnight at RT. The solvents were eliminated in a nitrogen stream and the residue was purified by HPLC; the fractions containing the product were combined and lyophilised.

reactant | LiOH | 0.08 mmol, 1.92 mg | [Li+].[OH-]
reactant | (R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-[4-(8-ethoxycarbonyl-methyl-8-aza-bicyclo[3.2.1]oct-3-yl)-piperazin-1-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.05 mmol, 40.0 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCN(CC1)C1CC3(CCC(C1)N3C(=O)OCC)C)CC3=CC(=C(C(=C3)C(F)(F)F)N)Cl)C=CC=C2 | C40H51ClF3N7O6
reactant | THF | 1 mL | C1CCOC1 | C4H8O
solvent | water | 1 mL | O | H2O
product | (R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-[4-(8-carboxymethyl-8-aza-bicyclo[3.2.1]oct-3-yl)-piperazin-1-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCN(CC1)C1CC3CCC(C1)N3CC(=O)O)CC3=CC(=C(C(=C3)C(F)(F)F)N)Cl)C=CC=C2 | C38H47ClF3N7O6
